US04544621
N-(chloromethylcarbonyloxy-3-oxapentyl)dimethylmaleimide
A mixture of 90.6 g (0.41 mole) of N-(5-hydroxy-3-oxapentyl)dimethylmaleimide, 46.6 g of chloroacetic acid, 4.8 g of concentrated sulfuric acid and 400 ml of toluene are reacted and worked up as described in Example 1, affording 112 g of a slightly yellowish liquid.

reactant | N-(5-hydroxy-3-oxapentyl)dimethylmaleimide | 0.41 mole, 90.6 g | OCCOCCN1C(C(=C(C1=O)C)C)=O | C10H15NO4
reactant | chloroacetic acid | 46.6 g | ClCC(=O)O | C2H3ClO2
reactant | sulfuric acid | 4.8 g | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | N-(chloromethylcarbonyloxy-3-oxapentyl)dimethylmaleimide | ClCC(=O)OCCOCCN1C(C(=C(C1=O)C)C)=O | C12H16ClNO5
